US07687491B2
(22d) 4-Ethyl-N′-hydroxy-5-[(tetrahydro-2H-pyran-2-yloxy)methyl]thiophene-2-carboximidamide
The crude product of the title compound was synthesized by conducting the reaction similar to that mentioned in Example 1 (1d) using 4-ethyl-5-[(tetrahydro-2H-pyran-2-yloxy)methyl]thiophene-2-carbonitrile (0.86 g, 3.4 mmol) that was obtained in Example 22 (22c) and a 50% aqueous solution of hydroxylamine (0.5 mL). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:3 to 5:5) as the eluent to afford the title compound (0.96 g) in a yield of 98% as a colourless oily product.

reactant | 4-ethyl-5-[(tetrahydro-2H-pyran-2-yloxy)methyl]thiophene-2-carbonitrile | 3.4 mmol, 0.86 g | C(C)C=1C=C(SC1COC1OCCCC1)C#N | C13H17NO2S
reactant | hydroxylamine | 0.5 mL | NO | H3NO
product | 4-Ethyl-N′-hydroxy-5-[(tetrahydro-2H-pyran-2-yloxy)methyl]thiophene-2-carboximidamide | C(C)C=1C=C(SC1COC1OCCCC1)C(N)=NO | C13H20N2O3S
